US08557983B2
4-(1-allylpiperidin-4-ylamino)-3-nitrobenzenesulfonamide
3-nitro-4-(piperidin-4-ylamino)benzenesulfonamide hydrochloride (0.27 g), triethylamine (0.2 mL) and 3-bromoprop-1-ene (0.1 g) was dissolved in N,N-dimethylformamide (5 mL). The mixture was stirred at room temperature overnight. The solvent was dried under vacuum. The mixture was chromatographed on silica gel with 0-20% methanol in dichloromethane.

reactant | 3-nitro-4-(piperidin-4-ylamino)benzenesulfonamide hydrochloride | 0.27 g | Cl.[N+](=O)([O-])C=1C=C(C=CC1NC1CCNCC1)S(=O)(=O)N
reactant | triethylamine | 0.2 mL | C(C)N(CC)CC | C6H15N
reactant | 3-bromoprop-1-ene | 0.1 g | BrCC=C | C3H5Br
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 4-(1-allylpiperidin-4-ylamino)-3-nitrobenzenesulfonamide | C(C=C)N1CCC(CC1)NC1=C(C=C(C=C1)S(=O)(=O)N)[N+](=O)[O-] | C14H20N4O4S
